US20010020094A1
To the above reaction mixture was added 1.1 eq of resorcinol and the mixture was heated to 80° C. Within 2 h, an HPLC analysis indicated 2-chloro-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine and its isomer had completely reacted to form 83% of 2-(2,4-dihydroxyphenyl)-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine and 6% of its isomer.

reactant | resorcinol | 1.1 eq | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-chloro-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C | C19H18ClN3
product | 2-(2,4-dihydroxyphenyl)-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine | 83% | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C | C25H23N3O2
